US06890940B2
To a solution of 4-(2-hydroxyethoxy)-1-iodo-3,5-dimethoxybenzene (2.76 g, 8.52 mmol) synthesized by the process shown in Reference Example 5 in dimethylformamide (25 mL) were added imidazole (1.16 g, 17.0 mmol) and t-butylchlorodimethylsilane (1.61 g, 10.7 mmol), and the mixture was stirred at 50° C. for 3 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate-hexane (1:1). The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield 4-[2-(t-butyldimethylsiloxy)-ethoxy]-1-iodo-3,5-dimethoxybenzene as a colorless oil (3.56 g, yield: 95%).

reactant | 4-(2-hydroxyethoxy)-1-iodo-3,5-dimethoxybenzene | 8.52 mmol, 2.76 g | OCCOC1=C(C=C(C=C1OC)I)OC | C10H13IO4
reactant | imidazole | 17.0 mmol, 1.16 g | N1C=NC=C1 | C3H4N2
reactant | t-butylchlorodimethylsilane | 10.7 mmol, 1.61 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-[2-(t-butyldimethylsiloxy)-ethoxy]-1-iodo-3,5-dimethoxybenzene | 3.56 g, yield: 95% | O([Si](C)(C)C(C)(C)C)CCOC1=C(C=C(C=C1OC)I)OC | C16H27IO4Si
